US05744488
3-(1H-Imidazol-1-ylmethyl)-2-methyl-5-nitro-1H-indole
Treatment of 2, N,N-trimethyl-5-nitro-1H-indole-3-methanamine (J.Org.Chem.,28,2921(1963)) (5.60 g) with imidazole (1.90 g) in xylene (100 ml) according to the method of Preparation 1 gave the title compound (5.50 g),m.p. 240°-242° C. Found: C,61.02; H,4.41; N,21.68. C13 H12N4O2 requires: C,60.92; H,4.72; N,21.87%.

reactant | 2, N,N-trimethyl-5-nitro-1H-indole-3-methanamine | 5.60 g | CC=1NC2=CC=C(C=C2C1CN(C)C)[N+](=O)[O-] | C12H15N3O2
reactant | imidazole | 1.90 g | N1C=NC=C1 | C3H4N2
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(1H-Imidazol-1-ylmethyl)-2-methyl-5-nitro-1H-indole | 5.50 g | N1(C=NC=C1)CC1=C(NC2=CC=C(C=C12)[N+](=O)[O-])C | C13H12N4O2
